* C:\users\chris\Projects\eurorack\VCO\hardware\ltspice\vco.asc
V1 +Vs -Vs 24 Rser=1 Cpar=1n
R1 +Vs 0 10k
R2 0 -Vs 10k
V2 CV 0 0
Q1 -Vs N025 N033 0 BC557B
Q2 N013 N033 0 0 BC547B
C1 N013 0 10n
R10 +Vs N033 1Meg
D1 N041 N013 1N4148
XU3 N013 N011 +Vs -Vs N011 TL072
C2 N012 N011 100n
R11 N012 0 100k
XU4 N043 N013 +Vs -Vs N041 TL072
R14 +Vs N043 47k
R15 N043 0 47k
R16 N041 N043 100k
XU5 0 N014 +Vs -Vs N015 TL072
R17 N015 N014 10k
R18 N014 N018 10k
D2 N015 N019 1N4148
D3 N018 N019 1N4148
XU6 SAW N018 +Vs -Vs N018 TL072
C4 N020 N019 100n
R20 N020 0 100k
R21 N019 -Vs 20k
XU7 TRI N023 +Vs -Vs N023 TL072
R22 N026 N023 200
R23 N026 N028 2k
D4 N028 N035 1N4148
R24 N035 N034 100
R25 N044 N034 100
D5 N044 N028 1N4148
R26 N026 N029 1k
D6 N029 N036 1N4148
R27 N036 N035 33
R28 N045 N044 33
D7 N045 N029 1N4148
R29 N026 N030 470
D8 N030 N037 1N4148
R30 N037 N036 82
R31 N046 N045 82
D9 N046 N030 1N4148
R32 N026 N031 330
D10 N031 N038 1N4148
R33 N038 N037 47
R34 N047 N046 47
D11 N047 N031 1N4148
R35 N026 N032 120
D12 N032 N039 1N4148
R36 N039 N038 30
R37 N048 N047 30
D13 N048 N032 1N4148
D14 N026 N040 1N4148
R39 N049 N048 39
D15 N049 N026 1N4148
R40 N040 N039 39
V5 N040 0 2.4
V6 0 N049 2.4
XU8 N026 N021 +Vs -Vs N022 TL072
R3 N025 N042 1k
R4 N042 0 1k
R5 P001 CV 100k
R6 N025 P001 10k
R7 N025 P002 1Meg
R8 P002 P003 10k
R9 P003 FM 100k
R45 N025 P004 10k
R46 N025 P005 10k
R47 P004 N027 1Meg
R48 P005 N024 100k
R49 P006 -Vs 100k
R50 N027 P006 70k
R51 0 N027 30k
R52 P007 -Vs 10k
R53 N024 P007 60k
R54 P008 N024 40k
R55 +Vs P008 100k
XU1 N002 0 +Vs -Vs N005 TL072
R56 N002 0 100k
XU2 N007 N001 +Vs -Vs N002 TL072
R57 N002 N001 10k
R58 N001 N004 10k
R59 P009 N007 68k
XU9 SAW N004 +Vs -Vs N004 TL072
V3 PWM_CV 0 0
XU10 N012 N009 +Vs -Vs N010 TL072
R12 N010 N009 10k
R13 0 N009 10k
XU11 N020 N016 +Vs -Vs N017 TL072
R19 N017 N016 10k
R61 0 N016 10k
R38 N006 N005 100k
R41 0 N006 100k
XU12 N006 N003 +Vs -Vs N003 TL072
R42 SAW N010 1k
C5 N015 N014 10n
R43 PWM N003 1k
R44 TRI N017 1k
R60 P009 PWM_CV 10k
R62 +Vs N008 80k
R63 N008 -Vs 20k
R64 N007 N008 100k
R65 0 N007 14k
R66 N022 N021 6.8k
R67 0 N021 10k
R68 SIN N022 1k
.model D D
.lib C:\users\chris\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\chris\Documents\LTspiceXVII\lib\cmp\standard.bjt
.SUBCKT TL072    1 2 3 4 5
*
C1   11 12 3.498E-12
C2    6  7 15.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
GA    6  0 11 12 282.8E-6
GCM   0  6 10 99 8.942E-9
ISS   3 10 DC 195.0E-6
HLIM 90  0 VLIM 1K
J1   11  2 10 JX
J2   12  1 10 JX
R2    6  9 100.0E3
RD1   4 11 3.536E3
RD2   4 12 3.536E3
RO1   8  5 150
RO2   7 99 150
RP    3  4 2.143E3
RSS  10 99 1.026E6
VB    9  0 DC 0
VC    3 53 DC 2.200
VE   54  4 DC 2.200
VLIM  7  8 DC 0
VLP  91  0 DC 25
VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS
.tran 0 0.058 0.02
* .ac oct 100 20 20000
* .dc oct V2 0 10 100
* Schmitt Trigger
* Buffer, Decouple, Scale
* Temp Ind.
* INVERTER / SUMMER
* TRIM-POT
* THERMISTOR
* THERMISTOR
* TRIM-POT
* THERMISTOR
* THERMISTOR
* PWM
* +500R Trimpot
* 250k POT
* 100k TRIMPOT
* SINE CLIPPER
.backanno
.end
